US07491735B2
Using general procedure A with 5-amino-2-chloropyridine (254 mg, 1.98 mmol) and 1-Boc-4-piperidone (590 mg, 2.96 mmol), then general procedure H with the resulting amine and 3-(bromomethyl)thiophene (517 mg) and then using general procedure C gave (6-chloro-pyridin-3-yl)-piperidin-4-yl-thiophen-3-ylmethyl-amine as a green oil (65 mg, 10% over 3 steps).

reactant | 5-amino-2-chloropyridine | 1.98 mmol, 254 mg | NC=1C=CC(=NC1)Cl | C5H5ClN2
reactant | 1-Boc-4-piperidone | 2.96 mmol, 590 mg | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | 3-(bromomethyl)thiophene | 517 mg | BrCC1=CSC=C1 | C5H5BrS
product | (6-chloro-pyridin-3-yl)-piperidin-4-yl-thiophen-3-ylmethyl-amine | ClC1=CC=C(C=N1)N(CC1=CSC=C1)C1CCNCC1 | C15H18ClN3S
